US04029788
N'-[2,3-bis(4-methyl-1-piperazinyl)-5-quinoxalinyl]-N,N-dimethylformamidine
A 2.4 g. portion of 5-amino-2,3-bis(4-methyl-1-piperazinyl)quinoxaline prepared as in Example 3 is combined with 23.0 g. of dimethylformamide diethylacetal in a reaction flask. The suspension is heated in an oil bath at 135° C. with magnetic stirring. The solid is dissolved within four minutes and refluxing is continued for two hours. The reaction solution is cooled and stripped of solvent by water pump evacuation. The residual yellow solid is recrystallized by boiling in 200 ml. of hexane, after filtering to remove a small amount of insoluble material. The recrystallized material is collected by filtration and dried in vacuo over phosphorous pentoxide at 78° C. The above filtrate is set aside and the dried material is again recrystallized from 200 ml. of hexane in exactly the same manner as above, collected and dried to give 0.35 g. of orange solid. A yellowish-brown insoluble material removed by filtering the hot hexane prior to cooling is set aside. The final hexane cold filtrate and the initial hexane cold filtrate previously set aside are combined and the hexane is removed by water pump evacuation. The insoluble residue set aside previously is added to the combined filtrate residue and this is recrystallized from 70 ml. of hot acetonitrile by cooling at -10° C. The solid formed is collected by filtration, washed with cold acetonitrile and dried in vacuo over phosphorous pentoxide at 78° C. to give 1.6 g. of additional orange solid. The combined yield of the product of the example is 1.9 g., m.p. 183°-186° C.

reactant | 5-amino-2,3-bis(4-methyl-1-piperazinyl)quinoxaline | NC1=C2N=C(C(=NC2=CC=C1)N1CCN(CC1)C)N1CCN(CC1)C | C18H27N7
reactant | dimethylformamide diethylacetal | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | water | O | H2O
product | N'-[2,3-bis(4-methyl-1-piperazinyl)-5-quinoxalinyl]-N,N-dimethylformamidine | CN1CCN(CC1)C1=NC2=CC=CC(=C2N=C1N1CCN(CC1)C)N=CN(C)C | C21H32N8
